US09126969B2
5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-(2-piperidin-1-ylethoxy)-1H-benzimidazol
A solution of 248 mg of 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde and 278.9 mg of 4-fluoro-5-(2-piperidin-1-ylethoxy)benzene-1,2-diamine in 12 mL of methanol is stirred at ambient temperature overnight. In order for the reaction to be complete, heating is carried out for a further half an hour at reflux and then overnight at ambient temperature. After concentration under vacuum in a rotary evaporator, 515 mg of 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-(2-piperidin-1-ylethoxy)-1H-benzimidazoleare isolated in the form of a dark solid. 1H NMR (300 MHz, DMSO-d6, δ in ppm): for this batch, we observe a 60%-40% resolution of tautomers with: from 1.31 to 1.78 (m, 9H); from 1.87 to 2.30 (m, 3H); 2.46 (m partially masked, 4H); 2.72 (t, J=6.0 Hz, 2H); 3.69 (m, 1H); 4.00 (m, 1H); 4.19 (t, J=6.0 Hz, 2H); 5.60 (dd, J=2.0 and 9.0 Hz, 1H); 7.26 (d, J=7.5 Hz, 0.6H); 7.41 (d, J=11.5 Hz, 0.4H); 7.45 (d, J=7.5 Hz, 0.4H); 7.53 (d, J=11.5 Hz, 0.6H); 9.18 (s, 1H); 12.85 (broad m, 1H).

reactant | 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde | 248 mg | [N+](=O)([O-])C=1C(=NN(C1)C1OCCCC1)C=O | C9H11N3O4
reactant | 4-fluoro-5-(2-piperidin-1-ylethoxy)benzene-1,2-diamine | 278.9 mg | FC=1C=C(C(=CC1OCCN1CCCCC1)N)N | C13H20FN3O
solvent | methanol | 12 mL | CO | CH4O
product | 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-(2-piperidin-1-ylethoxy)-1H-benzimidazol | FC1=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C=C1OCCN1CCCCC1 | C22H27FN6O4
